US07947675B2
Step b): 2-Chloro-3-nitro-5-trifluoromethylbenzoyl chloride
To a solution of 2-chloro-3-nitro-5-trifluoromethylbenzoic acid (1.35 g) in toluene (15 ml) are added 1.2 ml of SOCl2. After refluxing for 2 hours, the end of the reaction is confirmed by monitoring by infrared (new band at 1788 cm−1). The reaction medium is evaporated to dryness and the resulting yellow oil, 2-chloro-3-nitro-5-trifluoromethylbenzoyl chloride, is used without further purification in the following step.

reactant | 2-chloro-3-nitro-5-trifluoromethylbenzoic acid | 1.35 g | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C8H3ClF3NO4
reactant | SOCl2 | 1.2 ml | O=S(Cl)Cl | Cl2OS
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-3-nitro-5-trifluoromethylbenzoyl chloride | ClC1=C(C(=O)Cl)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C8H2Cl2F3NO3
